US06514964B1
2-(3-{[N-(3-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)propyl)carbamoyl]methyl}-1H,2H,4H,5H-benzo[d]azepinyl)acetic acid was prepared from bromoacetic acid, 3-(1,2,3,4-tetrahydropyridino[2,3,b]pyridin-7-yl)propylamine and methyl 2-(1H,2H,3H,4H,5H-benzo[d]azepin-1-yl)acetate according to the procedure of Example 27. EI-MS m/z 437 (M+H)+; 1H NMR (400 MHz; CDCl3): 9.61 (1H, br), 8.39 (1H, br), 7.15 (5H, m), 6.31 (1H, d, J=7.25 Hz), 3.64 (2H, m), 3.34 (6H, m), 2.99 (4H, m), 2.71 (4H, m), 1.93 (5H, m), 0.86 (2H, m).

reactant | bromoacetic acid | BrCC(=O)O | C2H3BrO2
reactant | 3-(1,2,3,4-tetrahydropyridino[2,3,b]pyridin-7-yl)propylamine | N1CCCC=2C1=NC(=CC2)CCCN | C11H17N3
reactant | methyl 2-(1H,2H,3H,4H,5H-benzo[d]azepin-1-yl)acetate | C1(CNCCC2=C1C=CC=C2)CC(=O)OC | C13H17NO2
product | 2-(3-{[N-(3-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)propyl)carbamoyl]methyl}-1H,2H,4H,5H-benzo[d]azepinyl)acetic acid | N1CCCC=2C1=NC(=CC2)CCCNC(=O)CN2CC(C1=C(CC2)C=CC=C1)CC(=O)O | C25H32N4O3
